US04772600
2-(5-Methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
A solution of N-[3-[(5-methyl-2-thienylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester (93.8 g, 0.293 mole) in ethylene glycol (500 ml) was refluxed for 45 minutes and cooled. A 10-ml aliquot was taken (0.005 mole) and added to water. The product was extracted into ethyl acetate twice and the combined organic layer was washed twice with water, dried over magnesium sulfate, treated with charcoal, filtered, and evaporated under reduced pressure to give 0.8 g (53% yield) of solid. The solid was recrystallized from isopropyl alcohol/water to give 0.31 g of solid which was purified on a silica gel column using 1:1 methylene chloride/ethyl acetate as the eluting solvent. Evaporation of the solvent from the pure fraction and recrystallization of the resulting solid from isopropyl alcohol/water give title compound, mp 123°-125° C.

reactant | N-[3-[(5-methyl-2-thienylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 0.293 mole, 93.8 g | C(C)OC(CNC1=NC=CC=C1NC(=O)C=1SC(=CC1)C)=O | C15H17N3O3S
reactant | water | O | H2O
solvent | ethylene glycol | 500 ml | C(CO)O | C2H6O2
product | 2-(5-Methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.8 g, 53% yield | C(C)OC(CN1C(=NC=2C1=NC=CC2)C=2SC(=CC2)C)=O | C15H15N3O2S
